US05849732
Under ice-cooling, to 20 ml of a dimethylformamide (DMF) suspension containing 850 mg of 62% sodium hydride was added little by little 5.4 g of N-benzyloxycarbonylamino-2-(4-hydroxyphenyl)ethylamine, and the mixture was stirred at room temperature for 20 minutes. Then, the mixture was ice-cooled, 10 ml of a DMF solution containing 4.5 g of N,N-dibutyl-3-chloropropylamine was added thereto. Further, after stirring the mixture at room temperature for 24 hours, water was added thereto and the mixture was extracted with diethyl ether. The extract was washed and dried, and the solvent was removed from the extract under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=2:1 and then chloroform:ethanol=20:1) to give 5.5 g of N-benzyloxycarbonyl-2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine (yield: 63%, oily product, IR (film): 3310, 1710 cm-1).

reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 850 mg | [H-].[Na+]
reactant | N-benzyloxycarbonylamino-2-(4-hydroxyphenyl)ethylamine | 5.4 g | C(C1=CC=CC=C1)OC(=O)NNCCC1=CC=C(C=C1)O | C16H18N2O3
reactant | DMF | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dibutyl-3-chloropropylamine | 4.5 g | C(CCC)N(CCCC)CCCCl | C11H24ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | N-benzyloxycarbonyl-2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine | 5.5 g, yield: 63% | C(C1=CC=CC=C1)OC(=O)NCCC1=CC=C(C=C1)OCCCN(CCCC)CCCC | C27H40N2O3
